US09388170B2
Preparation of sodium 2-(diethylamino)-1-hydroxyethanesulfonate (Compound 19)
2,2-diethoxy-N,N-diethylethanamine (140 mg, 0.75 mmol) was added in 0.1 mL H2O. Concentrated HCl (190 mg) was added dropwise in an ice bath. The solution was stirred for 2 hours at 40 degree. NaHSO3 (350 mg, 3.36 mmol) in 0.6 mL H2O was added to the reaction solution in an ice bath and stirred for 1 hour at room temperature, then 0.6 ml ethanol was added and stirred for 1 hour at room temperature. This reaction solution was concentrated, the resulting residue was used directly for the next step.

reactant | 2,2-diethoxy-N,N-diethylethanamine | 0.75 mmol, 140 mg | C(C)OC(CN(CC)CC)OCC | C10H23NO2
reactant | HCl | 190 mg | Cl | ClH
reactant | NaHSO3 | 3.36 mmol, 350 mg | OS(=O)[O-].[Na+]
reactant | ethanol | 0.6 ml | C(C)O | C2H6O
solvent | H2O | 0.1 mL | O | H2O
solvent | H2O | 0.6 mL | O | H2O
product | sodium 2-(diethylamino)-1-hydroxyethanesulfonate | C(C)N(CC(S(=O)(=O)[O-])O)CC.[Na+] | InChI=1S/C6H15NO4S.Na/c1-3-7(4-2)5-6(8)12(9,10)11;/h6,8H,3-5H2,1-2H3,(H,9,10,11);/q;+1/p-1
